Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ yo M with PMH significant for multiple myeloma, 
hypertension and diabetes who presents after a fall. He was 
diagnosed with multiple myeloma in ___ and began 
chemotherapy with Velcade and dexamethasone two weeks ago. Since 
starting chemotherapy he reports feeling generally weak, a lack 
of appetite, poor PO intake and ___ loose stools/day. He denies 
n/v. On the morning of admission, he felt dizzy when he went to 
brush his teeth and then fell backwards and landed on his 
backside. He did not lose consciousness, hit his head or sustain 
other trauma. He denied any preceding headache, confusion, 
chills, sweating, chest pain, palpitations, urinary incontinence 
or difficulty breathing. He was brought to the ED for 
evaluation.  
  
In the ___ ED, vitals were: Temp 98.6 HR 66, BP 159/75, 16, 
96/RA. His T/L spine was tender so T/L spine films were sent 
which showed no evidence of fracture (final read pending). He 
appeared dry on clinical exam and was given 1L NS and morphine 2 
mg IV x 2. His blood sugar was 303 and he was given 4 units of 
regular insulin SQ and transferred to the medicine floor for 
further management.  

Currently, he reports feeling well but continues to have back 
pain and no appetite. He denies recent fevers, chills, abdominal 
pain, dark or bloody stools, dysuria or hematuria. Of note, he 
did not take his medications the morning of admission.
 
Past Medical History:
1. Multiple myeloma: Diagnosed ___. Initial presentation 
sinus congestion --> found to have rapidly growing mass in left 
paranasal sinus --> ENT endoscopic biopsy ___ --> 
plasmocytoma --> ___ ___ --> myeloma. No lytic lesions on 
skeletal survey. Chemotherapy with Velcade and dexamethasone 
started ___.  
2. Type 2 DM: Last A1c 8.0% ___. In setting of starting 
steroids, recent ___ in the 300-400s. Has been on metformin and 
glyburide, PCP would like to start insulin this week.  
3. Hypertension: Reports BP's at home have been "normal" per 
machine he uses. Recent BPs at PCP 120s/70s. BP in ED 159/75  
4. Hypercholesterolemia: On Atorvastatin. Last cholesterol 147 
___  
5. Essential tremor  
6. Hypothyroidism: History of Grave's disease. Was rx'd with 
radioactive iodine. Currently hypothyroid on ___ mcg levoxyl qd. 
 
7. Hyperparathyroidism: Borderline hypercalcemia. Increased 
parathyroid uptake c/w adenoma seen on parathyroid scan in 
___.  
8. Lactose intolerance: Drinks milk but ? whether has caused 
diarrhea along with recent chemo  
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: 96.4 BP 198/100 pulse 61 RR 20 O2 Sat 99% RA  
GEN: AAOx3. ___, alert and interactive, lying in bed, NAD. 
Medium frequency essential tremor most prominent in bilateral 
hands and jaw.  
HEENT: PERRL, EOMI. CN II-XII grossly intact bilaterally. 
Oropharynx moist without lesions or exudate. No JVD. Bilateral 
exopthalmos.  
HEART: RRR, nl S1, S2, no murmurs, rubs or gallops  
LUNGS: CTAB  
ABD: NABS. Tympanitic, moderate distention with air. Midline 
ventral hernia. Soft, non-tender, no masses or HSM appreciable  
EXT: 1+ edema of ankles. 2+ DP pulses bilaterally. No cyanosis  
SPINE: TTP lower thoracic spine and lower paraspinous muscles. 
No ecchymoses or significant swelling.  
 
Pertinent Results:
___ 01:26PM BLOOD WBC-23.5*# RBC-3.98* Hgb-12.4* Hct-34.1* 
MCV-86 MCH-31.3 MCHC-36.4* RDW-14.0 Plt ___
___ 06:05AM BLOOD WBC-15.0* RBC-3.51* Hgb-10.9* Hct-30.0* 
MCV-86 MCH-31.2 MCHC-36.4* RDW-14.2 Plt ___
___ 05:55AM BLOOD WBC-15.5* RBC-3.41* Hgb-10.8* Hct-30.2* 
MCV-89 MCH-31.6 MCHC-35.6* RDW-13.9 Plt ___
___ 01:26PM BLOOD Glucose-303* UreaN-27* Creat-1.4* Na-130* 
K-5.5* Cl-94* HCO3-26 AnGap-16
___ 05:55AM BLOOD Glucose-72 UreaN-19 Creat-1.2 Na-137 
K-3.8 Cl-104 HCO3-24 AnGap-13
___ 01:26PM BLOOD CK(CPK)-97
___ 01:26PM BLOOD cTropnT-<0.01
___ 05:55AM BLOOD TSH-0.75
___ 04:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:30PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-250 Ketone-NEG Bilirub-NEG Urobiln-1 pH-6.5 Leuks-NEG
___ 04:30PM URINE ___ Bacteri-OCC Yeast-NONE 
Epi-0

X-ray L and T spine (___): No acute fracture or dislocation. 
Progression of underlying degenerative disease since ___. 

CXR (___): No acute cardiopulmonary process.
 
Brief Hospital Course:
1) Dizziness / fall: No evidence of spinal trauma on plain 
films. His lightheadedness was likely due to hypovolemia due to 
poor PO intake, polyuria (from steroid-induced hyperglycemia), 
and frequent loose stools since starting chemotherapy two weeks 
ago. Patient was initially significantly orthostatic by BP, with 
systolic change of ~50 mmHg. Given aggressive volume 
resuscitation and held HCTZ and amlodipine with resolution of 
measured orthostasis. He still had mild transient symptoms when 
arising, but was evaluated by ___ and felt to be able to ambulate 
with a walker to assist.

2) Hypertension: Initial BP on floor was 200/100 without any 
symptoms, such as headache, chest pain, or vision changes. 
Patient had not taken his BP meds that day. His SBP improved 
with resumption of home meds. Telemetry monitoring showed 
occasional PVCs and one run of asymptomatic V tach. He was 
continued on moexepril and propanolol, and his HCTZ and 
amlodipine were held as above with preserved BP control.
  
3) Diabetes: Exacerbated since starting dexamethasone for 
chemotherapy. Glyburide was switched to glipizide as the former 
is renally cleared. His metformin was initially held for 
elevated creatinine, but restarted as this improved. He was 
given an insulin sliding scale, which was unable to be continued 
as discharge as the patient was unable to self-administer. He 
received teaching for a diabetic diet.
  
4) Hypothyroidism: TSH was 0.75 on 125 mcg levoxyl. To reach a 
goal TSH over 1.0, his dose was decreased to 112 mcg daily. TSH 
can be followed up outpatient.
  
5) Chronic renal insufficiency: Creatinine 1.4 on admission, 
which improved to 1.2 with fluids.
  
6) Multiple myeloma: On Velcade and dexamethasone. Was not 
scheduled to receive chemotherapy during the week of his 
admission.
 
Medications on Admission:
1. AMLODIPINE [NORVASC] - 10 mg Tablet daily  
2. HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 Tablet daily  
3. MOEXIPRIL [UNIVASC] - 15 mg Tablet - 1 Tablet BID  
4. PROPRANOLOL [INDERAL LA] - 120 mg Capsule, 2 Capsules daily  
5. ATORVASTATIN - 10 mg Tablet - 1 Tablet daily  
6. METFORMIN - 1,000 mg Tablet - 1 Tablet bid, take with meals  
7. GLYBURIDE - 5 mg Tablet - 2 Tablet(s) by mouth BID  
8. LEVOTHYROXINE [LEVOXYL] - 125 mcg Tablet - one tab daily  
9. LORAZEPAM - 0.5 mg Tablet - ___ Tablet qhs prn for insomnia  
10. PERCOCET - 5 mg-325 mg Tablet - ___ tabs q6h: prn  
12. PROCHLORPERAZINE MALEATE - 10 mg Tablet q6h prn nausea  
13. RANITIDINE HCL - 150 mg Tablet - 1 Tab BID  
14. DOCUSATE SODIUM - 100 mg Capsule 1 Capsule BID  
15. DEXAMETHASONE - 4 mg Tablet - 5 Tablet(s) by mouth daily 
days  
2,5,9 and 12  
16. VELCADE (Bortezomib) - per chemo regimen  
 
Discharge Medications:
1. Moexipril 15 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Propranolol 120 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
5. Glipizide 10 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).
Disp:*120 Tablet(s)* Refills:*0*
6. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. Chemotherapy
Continue chemotherapy with velcade and dexamethasone as 
instructed by your oncologist.
10. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO at bedtime as 
needed for insomnia.  
11. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) Adhesive Patch, Medicated Topical DAILY (Daily): Apply 
to the muscles along the sides of the lower spine. Leave on 12 
hours, off 12 hours.
Disp:*10 Adhesive Patch, Medicated(s)* Refills:*0*
12. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain: Do not take within ___ hours of 
taking cyclobenzaprine.
Disp:*20 Tablet(s)* Refills:*0*
13. Cyclobenzaprine 10 mg Tablet Sig: 0.5 Tablet PO TID (3 times 
a day) as needed for muscle pain: Do not take within ___ hours 
of taking oxycodone.
Disp:*10 Tablet(s)* Refills:*0*
14. Glucometer
15. Lancets for glucometer
3 month supply.

Refill: *2*
16. Test strips
3 month supply.

Refill: *2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Orthostatic hypotension

Secondary:
Multiple myeloma
Type 2 diabetes mellitus
Hypertension
Hypothyroidism

 
Discharge Condition:
Hemodynamically stable, afebrile

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.

You were admitted to the hospital because you were dizzy and 
fell.  This is probably due to the fact that you had not been 
eating well and were having diarrhea, causing you to be 
dehydrated.  We gave you fluids to improve this.  Please drink 
plenty of fluids at home to stay hydrated.  We took images of 
your back which showed no fractures from your fall.  We also 
stopped two of your blood pressure medications, 
hydrochlorothiazide and amlodipine.  Your levothyroxine dose was 
lowered based on blood testing and your glyburide was changed to 
glipizide, a similar medication.

Please keep all of your appointments.

If you experience worsening dizziness, feeling faint, loss of 
consciousness, falls, confusion, headache, fevers, or any other 
concerning symptoms, please seek medical attention or come to 
the ER immediately.
 
Followup Instructions:
___